US06444685B1
2-(2-Butynyl)-2-[(4-{4-[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]-1-piperidinyl}phenyl)sulfonyl]-4-hexynoicacid tert-Butyl Ester
The title compound was prepared according to the procedure of Example 1 from 0.37 g (0.8 mmol) of Reference Example 27, 2-But-2-ynyl-2-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-hex-4-ynoic acid tert-butyl ester, and 0.24 g (1.0 mmol) of (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide, yielding 0.54 g of an off-white solid; m.p. 93-95° C.; MS (ES) m/z 688.2 (MH+); HRMS (ES) Calcd. for C34H46N3O8S2 (MH+): 688.2721, Found: 688.2722.

reactant | 2-But-2-ynyl-2-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-hex-4-ynoic acid tert-butyl ester | C(C)(C)(C)OC(C(CC#CC)(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O)CC#CC)=O | C25H31NO5S
reactant | (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide | 1.0 mmol, 0.24 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
product | 2-(2-Butynyl)-2-[(4-{4-[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]-1-piperidinyl}phenyl)sulfonyl]-4-hexynoicacid tert-Butyl Ester | C(C)(C)(C)OC(C(CC#CC)(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)CC#CC)=O | C34H45N3O8S2
